US06017675
46 g (0.343 mol) of AlCl3 are suspended in 200 ml of 1,2-dichloroethane and, at 0° C., 9.1 g (0.12 mol) of formaldehyde dimethylacetal are added. Then 17.0 g (0.1 mol) of 1,2-bis-(methylthio)benzene are added dropwise and the suspension is heated to room temperature. When the starting material can no longer be detected by GC analysis, the solution is poured into ice/water and the organic phase is separated off and dried over magnesium sulfate. When the solvent has been distilled off, 12.1 g (55%) of 1,2-bis(methylthio)-4-chloromethyl-benzene are obtained in the form of a yellow oil. The 1H-NMR spectrum (CDCl3) of the compound is consistent with the suggested structure: 7.17-7.13, s and d, 3 aromatic H; 4.52, s, 2H; 2.44, s, CH3S and 2.43, s, CH3S.

reactant | AlCl3 | 0.343 mol, 46 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | formaldehyde dimethylacetal | 0.12 mol, 9.1 g | COCOC | C3H8O2
reactant | 1,2-bis-(methylthio)benzene | 0.1 mol, 17.0 g | CSC1=C(C=CC=C1)SC | C8H10S2
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 1,2-bis(methylthio)-4-chloromethyl-benzene | 12.1 g, 55% | CSC1=C(C=C(C=C1)CCl)SC | C9H11ClS2
